US05494918
3-[4-(1,3-benzodioxole-5-yl) benzyloxy]-1-azabicyclo[2,2.2]octane hydrochloride
To a suspension of 0.14 g (3.44 m mole) of 60% sodium hydride in 20 ml of anhydrous DMF is added a solution of 0.48 g (3.44 m mole) of 3-quinuclidinol borane complex in 10 ml of DMF dropwise over 3 minutes. The mixture is stirred at room temperature for 15 minutes and a solution of 1.0 g (3.44 m moles) of 4-bromomethyl-3', 4'-methylenedioxy-1,1-biphenyl in 10 ml of DMF was added dropwise over 5 minutes. The mixture is stirred at room temperature for 2 hours and poured into 75 ml of water and extracted with 150 ml of ether. The ether is washed with water, dried over magnesium sulfate and filtered. The filtrate is evaporated and the residue purified by flash chromatography using 4:1 hexane:ethyl acetate to give a solid with 100°-3° mp. This solid is suspended in 10 ml of acetone and ethanolic hydrochloric acid is added to pH1. The mixture is stirred at room temperature for 15 minutes and then diluted with ether to precipitate 3-[4-(1,3-benzodioxol-5-yl) benzyloxy]-1-azabicyclo[2.2.21octane hydrochloride (m.p. 195°-8°).

reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | 4-bromomethyl-3', 4'-methylenedioxy-1,1-biphenyl | 1.0 g | BrCC1=CC=C(C=C1)C1=CC2=C(C=C1)OCO2 | C14H11BrO2
reactant | water | 75 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
product | 3-[4-(1,3-benzodioxole-5-yl) benzyloxy]-1-azabicyclo[2,2.2]octane hydrochloride | Cl.O1COC2=C1C=CC(=C2)C2=CC=C(COC1CN3CCC1CC3)C=C2 | InChI=1S/C21H23NO3.ClH/c1-3-16(18-5-6-19-20(11-18)25-14-24-19)4-2-15(1)13-23-21-12-22-9-7-17(21)8-10-22;/h1-6,11,17,21H,7-10,12-14H2;1H
